US04877787
Synthesis of 2-tert.-butyl-4-chloro-5-(2-methylbenzylthio)-3(2H)-pyridazinone (Compound No. 77)
In 10 ml of N,N-dimethylformamide was dissolved 1.5 g of 2-tert.-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone, and thereto were added 1.2 g of anhydrous potassium carbonate and 1.0 g of α-chloro-o-xylene. The resulting mixture was heated to 80° to 110° C. under stirring for 2 hours. After allowed to cool to room temperature, the mixture was incorporated with 100 ml of water and then stirred. The precipitated solid was filtered off, washed with water, dried and recrystallized from ethanol to give white needle-like crystals having the following physical properties (yield: 72.7%):

reactant | 2-tert.-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 1.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | α-chloro-o-xylene | 1.0 g | ClCC=1C(=CC=CC1)C | C8H9Cl
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-tert.-butyl-4-chloro-5-(2-methylbenzylthio)-3(2H)-pyridazinone | yield: 72.7% | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=C(C=CC=C1)C | C16H19ClN2OS
